US08293903B2
The HCl salt of 1,5-anhydro-2,3-dideoxy-3-{[(1R,3S)-3-{[(1S,4S)-2,5-diazabicyclo[2.2.1]hept-2-yl]carbonyl}-3-(2,2-difluoroethyl)cyclopentyl]amino}-4-O-methyl-D-erythro-pentitol (177 mg, 0.42 mmol) was placed in a flask with 1,4-dioxane (3 ml). To the stirred solution was added Xantphos (36 mg, 0.062 mmol), Pd2(dba)3 (22 mg, 0.024 mmol), Cs2CO3 (350 mg, 1.07 mmol), and 4-chloro-6-(trifluoromethyl)pyrimidine (195 mg, 1.07 mmol) dissolved in 1,4-dioxane (1 ml). DMSO (0.5 ml) was added for solubility and the reaction was heated to 100° C. for 21.5 hours. The reaction was allowed to cool to room temperature and filtered through celite. The filtrate was concentrated under reduced pressure and purified with the Biotage (0-100% methanol/ethyl acetate 15 column volumes) to give 1,5-anhydro-2,3-dideoxy-3-{[(1R,3S)-3-(2,2-difluoroethyl)-3-({(1S,4S)-5-[6-(trifluoromethyl)pyrimidin-4-yl]-2,5-diazabicyclo[2.2.1]hept-2-yl}carbonyl)cyclopentyl]amino}-4-O-methyl-D-erythro-pentitol as a white foam (43 mg, 20%). LC/MS (M+H)=534.2504 exp, 534.2597 obs; 1H NMR (400 MHz, CDCl3) δ ppm 8.62 (1H), 6.74-6.46 (1H), 5.93-5.62 (1H), 5.29-4.50 (2H), 4.08-4.03 (1H), 3.93-3.88 (1H), 3.77-3.55 (2H), 3.52-3.32 (6H), 3.30-3.21 (3H), 2.76-2.65 (1H), 2.51-2.33 (1H), 2.21-1.84 (7H), 1.70-1.40 (5H)

reactant | HCl | Cl | ClH
reactant | 1,5-anhydro-2,3-dideoxy-3-{[(1R,3S)-3-{[(1S,4S)-2,5-diazabicyclo[2.2.1]hept-2-yl]carbonyl}-3-(2,2-difluoroethyl)cyclopentyl]amino}-4-O-methyl-D-erythro-pentitol | 0.42 mmol, 177 mg | [C@@H]12N(C[C@@H](NC1)C2)C(=O)[C@@]2(C[C@@H](CC2)N[C@H]2CCOC[C@H]2OC)CC(F)F | C19H31F2N3O3
reactant | Xantphos | 0.062 mmol, 36 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 1.07 mmol, 350 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-chloro-6-(trifluoromethyl)pyrimidine | 1.07 mmol, 195 mg | ClC1=NC=NC(=C1)C(F)(F)F | C5H2ClF3N2
solvent | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.024 mmol, 22 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | DMSO | 0.5 ml | CS(=O)C | C2H6OS
product | 1,5-anhydro-2,3-dideoxy-3-{[(1R,3S)-3-(2,2-difluoroethyl)-3-({(1S,4S)-5-[6-(trifluoromethyl)pyrimidin-4-yl]-2,5-diazabicyclo[2.2.1]hept-2-yl}carbonyl)cyclopentyl]amino}-4-O-methyl-D-erythro-pentitol | 43 mg, 20% | FC(C[C@]1(C[C@@H](CC1)N[C@H]1CCOC[C@H]1OC)C(=O)N1[C@@H]2CN([C@H](C1)C2)C2=NC=NC(=C2)C(F)(F)F)F | C24H32F5N5O3
